**********
* Copyright Intusoft 1996-1997
* All Rights Reserved
****************
* Xicor - Digital Potentiometer Library
* Date: 10/16/96
*
* The only function not modeled is the ability to move the wiper several 
* positions (shorting out several resistor taps) before the Wiper is 
* finally set. To force the model to only change the wiper every
* 100us, set clk_delay=100u in the d_state model in the Analog_State subcircuit.
*
* The *DEFINE Vinit=50 in the Analog_State subcircuit defines the initial state of the
* pot as well as the state that the pot will be set to when the Reset is thrown.
* You can copy this subcircuit into your netlist (above the *SPICE_Net line) if
* you want to make frequent changes.
****************
* Model Workings
* A state machine (7 bit up/down counter) is used to keep track of the wiper position.
* If Vupdn is 1 and Vinc goes low the state machine increments. If Vupdn is 0 the
* state machine deccrements. The 7 bits of the state machine are weighted and summed in
* Bdtoa as the voltage Vout.
*
* Two resistors are used to represent the position of wiper. The resistance ratio is set
* By the output of the Bdtoa (Vout=Vpos). Rtot is the total resistance.
* Taps is the total number of taps. 1U is used to keep the resistance from being set to 0
* when the wiper hits its limits, which is not allowed in SPICE. 
* SPICE would force the resistor then to 1K if not for the 1U
*
****************
*SRC=X9312Z;X9312Z;Potentiometers;1 kOhm Digital;
*SYM=DPOT
.SUBCKT X9312Z 1    3     2    Vupdn Vinc Reset {Rtot=1K TAPS=100}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
****************
*SRC=X9312W;X9312W;Potentiometers;10 kOhm Digital;
*SYM=DPOT
.SUBCKT X9312W 1    3     2    Vupdn Vinc Reset {Rtot=10K TAPS=100}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
****************
*SRC=X9312U;X9312U;Potentiometers;50 kOhm Digital;
*SYM=DPOT
.SUBCKT X9312U 1    3     2    Vupdn Vinc Reset {Rtot=50K TAPS=100}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
****************
*SRC=X9312T;X9312T;Potentiometers;100 kOhm Digital;
*SYM=DPOT
.SUBCKT X9312T 1    3     2    Vupdn Vinc Reset {Rtot=100K TAPS=100}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
****************
*SRC=X9C102;X9C102;Potentiometers;1 kOhm Digital;
*SYM=DPOT
.SUBCKT X9C102 1    3     2    Vupdn Vinc Reset {Rtot=1K TAPS=100}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
****************
*SRC=X9C103;X9C103;Potentiometers;10 kOhm Digital;
*SYM=DPOT
.SUBCKT X9C103 1    3     2    Vupdn Vinc Reset {Rtot=10K TAPS=100}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
****************
*SRC=X9C503;X9C503;Potentiometers;50 kOhm Digital;
*SYM=DPOT
.SUBCKT X9C503 1    3     2    Vupdn Vinc Reset {Rtot=50K TAPS=100}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
****************
*SRC=X9C104;X9C104;Potentiometers;100 kOhm Digital;
*SYM=DPOT
.SUBCKT X9C104 1    3     2    Vupdn Vinc Reset {Rtot=100K TAPS=100}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
****************
*SRC=X9313Z;X9313Z;Potentiometers;1 kOhm Digital;
*SYM=DPOT
.SUBCKT X9313Z 1    3     2    Vupdn Vinc Reset {Rtot=1K TAPS=32}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State2
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
*****************
*SRC=X9313W;X9313W;Potentiometers;10 kOhm Digital;
*SYM=DPOT
.SUBCKT X9313W 1    3     2    Vupdn Vinc Reset {Rtot=10K TAPS=32}
*Connections  Top Wiper Bottom Vupdn Vinc Reset 
XA Vinc Vupdn VPos Reset Analog_State2
RTop 1 30 R= {Rtot} * ({TAPS-1} - V(Vpos)) / {TAPS-1} +1U
RBot 30 2 R= {Rtot} * (V(Vpos) / {TAPS-1}) + 1U
RWiper 30 3 40 ; Comment out and set node 3 to 30 to remove wiper resistance
.ENDS
*INCLUDE XICOR.LIB
*****************
.SUBCKT Analog_State 8    9     Vout 92
*Connections         Vinc Vupdn Vpos Reset
*DEFINE /Vinit=0
Bdtoa Vout 0 V=V(1) + V(2)*2 + V(3)*4 + V(4)*8 + V(5)*16 + V(6)*32 + V(7)*64
AState       [90]  ~80  91   [10 20 30 40 50 60 70] Counter
*Connections Vupdn Vinc Reset d0 d1 d2 d3 d4 d5 d6
.Model Counter d_state(clk_delay=1u reset_delay=100n state_file=bcnt7.txt 
+ reset_state= /Vinit)

Ad2a [10 20 30 40 50 60 70] [1 2 3 4 5 6 7] D2A
.Model D2A dac_bridge(out_low = 0 out_high = 1 out_undef = .5
+ t_rise = 1n t_fall = 1n)

Aa2d [8 9 92] [80 90 91] A2D
.Model A2D adc_bridge(in_low = 0.1 in_high = 0.9
+ rise_delay=1n fall_delay=1n)
.ENDS
*************
.SUBCKT Analog_State2 8    9     Vout 92
*Connections          Vinc Vupdn Vpos Reset
*DEFINE /Vinit=0
Bdtoa Vout 0 V=V(1) + V(2)*2 + V(3)*4 + V(4)*8 + V(5)*16 + V(6)*32 + V(7)*64
AState       [90]  ~80  91   [10 20 30 40 50 60 70] Counter
*Connections Vupdn Vinc Reset d0 d1 d2 d3 d4 d5 d6
.Model Counter d_state(clk_delay=1u reset_delay=100n state_file=bcnt5.txt 
+ reset_state= /Vinit)

Ad2a [10 20 30 40 50 60 70] [1 2 3 4 5 6 7] D2A
.Model D2A dac_bridge(out_low = 0 out_high = 1 out_undef = .5
+ t_rise = 1n t_fall = 1n)

Aa2d [8 9 92] [80 90 91] A2D
.Model A2D adc_bridge(in_low = 0.1 in_high = 0.9
+ rise_delay=1n fall_delay=1n)
.ENDS
*************

