*Library of Shindengen Electric diodes
*
*********************************************************************
*                   SHINDENGEN ELECTRIC MFG.CO.,LTD.
*                         SPICE MODEL LIBRARY
*
*   All Rights Copyright(C)SHINDENGEN MANUFACTURING CO.,LTD.1999
*
*********************************************************************
*
*
*$
*
* Product Name=D15XB60
.SUBCKT D15XB60/SDG 1 2 3 4
D1      2       1 D15XB60A
D2      3       2 D15XB60A
D3      3       4 D15XB60A
D4      4       1 D15XB60A
.MODEL D15XB60A D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS
*$
* Product Name=D1F60A Last revised 1999.5.10
.MODEL D1F60A/SDG D
+ IS=595.00E-12
+ N=1.6000
+ RS=18.700E-3
+ IKF=1.1600
+ CJO=51.100E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=7.1E-6
*$
*
* Product Name=D1N60
.MODEL D1N60/SDG D
+ IS=260.00E-12
+ N=1.6000
+ RS=42.900E-3
+ IKF=.55
+ CJO=23.100E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=4.1E-6
*$
*
* Product Name=D2F60
.MODEL D2F60/SDG D
+ IS=705.00E-12
+ N=1.6000
+ RS=15.800E-3
+ IKF=1.3500
+ CJO=60.100E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=7.7E-6
*$
*
* Product Name=D2SB60
.SUBCKT D2SB60/SDG 1 2 3 4
D1      2       1 D2SB60A
D2      3       2 D2SB60A
D3      3       4 D2SB60A
D4      4       1 D2SB60A
.MODEL D2SB60A D
+ IS=939.00E-12
+ N=1.6000
+ RS=11.900E-3
+ IKF=1.7400
+ CJO=79.200E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=9.2E-6
.ENDS
*$
*
* Product Name=D2SBA60
.SUBCKT D2SBA60/SDG 1 2 3 4
D1      2       1 D2SBA60A
D2      3       2 D2SBA60A
D3      3       4 D2SBA60A
D4      4       1 D2SBA60A
.MODEL D2SBA60A D
+ IS=595.00E-12
+ N=1.6000
+ RS=18.700E-3
+ IKF=1.1600
+ CJO=51.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=7.1E-6
.ENDS
*$
*
* Product Name=D3SB60
.SUBCKT D3SB60/SDG 1 2 3 4
D1      2       1 D3SB60A
D2      3       2 D3SB60A
D3      3       4 D3SB60A
D4      4       1 D3SB60A
.MODEL D3SB60A D
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS
*$
*
* Product Name=D3SBA60
.SUBCKT D3SBA60/SDG 1 2 3 4
D1      2       1 D3SBA60A
D2      3       2 D3SBA60A
D3      3       4 D3SBA60A
D4      4       1 D3SBA60A
.MODEL D3SBA60A D
+ IS=939.00E-12
+ N=1.6000
+ RS=11.900E-3
+ IKF=1.7400
+ CJO=79.200E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=9.2E-6
.ENDS
*$
*
* Product Name=D5SB60
.SUBCKT D5SB60/SDG 1 2 3 4
D1      2       1 D5SB60A
D2      3       2 D5SB60A
D3      3       4 D5SB60A
D4      4       1 D5SB60A
.MODEL D5SB60A D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS
*$
*
* Product Name=D5SBA60
.SUBCKT D5SBA60/SDG 1 2 3 4
D1      2       1 D5SBA60A
D2      3       2 D5SBA60A
D3      3       4 D5SBA60A
D4      4       1 D5SBA60A
.MODEL D5SBA60A D
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS
*$
*
* Product Name=DF5VD60
.SUBCKT DF5VD60/SDG 1 2 3 
D1      1       2 DF5VD60A
D2      2       3 DF5VD60A
.MODEL DF5VD60A D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS
*$
*
* Product Name=M1F60
.MODEL M1F60/SDG D
+ IS=260.00E-12
+ N=1.6000
+ RS=42.900E-3
+ IKF=.55
+ CJO=23.100E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=4.1E-6
*$
*
* Product Name=S10VB60
.SUBCKT S10VB60/SDG 1 2 3 4
D1      2       1 S10VB60A
D2      3       2 S10VB60A
D3      3       4 S10VB60A
D4      4       1 S10VB60A
.MODEL S10VB60A D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS
*$
*
* Product Name=S10VT60
.SUBCKT S10VT60/SDG 1 2 3 4 5
D1      1       3 S10VT60A
D2      3       2 S10VT60A
D3      1       4 S10VT60A
D4      4       2 S10VT60A
D5      1       5 S10VT60A
D6      5       2 S10VT60A
.MODEL S10VT60A D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS
*$
*
* Product Name=S10VTA60
.SUBCKT S10VTA60/SDG 1 2 3 4 5
D1      1       3 S10VTA60A
D2      3       2 S10VTA60A
D3      1       4 S10VTA60A
D4      4       2 S10VTA60A
D5      1       5 S10VTA60A
D6      5       2 S10VTA60A
.MODEL S10VTA60A D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS
*$
*
* Product Name=S10WB60
.SUBCKT S10WB60/SDG 1 2 3 4
D1      2       1 S10WB60A
D2      3       2 S10WB60A
D3      3       4 S10WB60A
D4      4       1 S10WB60A
.MODEL S10WB60A D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS
*$
*
* Product Name=S15VB60
.SUBCKT S15VB60/SDG 1 2 3 4
D1      2       1 S15VB60A
D2      3       2 S15VB60A
D3      3       4 S15VB60A
D4      4       1 S15VB60A
.MODEL S15VB60A D
+ IS=2.4120E-9
+ N=1.6000
+ RS=4.6300E-3
+ IKF=4.0500
+ CJO=196.00E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=14.8E-6
.ENDS
*$
*
* Product Name=S1ZA60
.SUBCKT S1ZA60/SDG 1 2 3 4
D1      1       2 S1ZA60A
D2      3       4 S1ZA60A
.MODEL S1ZA60A D
+ IS=260.00E-12
+ N=1.6000
+ RS=42.900E-3
+ IKF=.55
+ CJO=23.100E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=4.1E-6
.ENDS
*$
*
* Product Name=S20WB60
.SUBCKT S20WB60/SDG 1 2 3 4
D1      2       1 S20WB60A
D2      3       2 S20WB60A
D3      3       4 S20WB60A
D4      4       1 S20WB60A
.MODEL S20WB60A D
+ IS=7.3660E-9
+ N=1.6000
+ RS=1.5200E-3
+ IKF=10.980
+ CJO=573.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=27.4E-6
.ENDS
*$
*
* Product Name=S25VB60
.SUBCKT S25VB60/SDG 1 2 3 4
D1      2       1 S25VB60A
D2      3       2 S25VB60A
D3      3       4 S25VB60A
D4      4       1 S25VB60A
.MODEL S25VB60A D
+ IS=7.3660E-9
+ N=1.6000
+ RS=1.5200E-3
+ IKF=10.980
+ CJO=573.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=27.4E-6
.ENDS
*$
*
* Product Name=S2V60
.MODEL S2V60/SDG D
+ IS=705.00E-12
+ N=1.6000
+ RS=15.800E-3
+ IKF=1.3500
+ CJO=60.100E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=7.7E-6
*$
*
* Product Name=S2VB60
.SUBCKT S2VB60/SDG 1 2 3 4
D1      2       1 S2VB60A
D2      3       2 S2VB60A
D3      3       4 S2VB60A
D4      4       1 S2VB60A
.MODEL S2VB60A D
+ IS=333.00E-12
+ N=1.6000
+ RS=33.500E-3
+ IKF=.69
+ CJO=23.900E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=4.9E-6
.ENDS
*$
*
* Product Name=S30VT60
.SUBCKT S30VT60/SDG 1 2 3 4 5
D1      1       3 S30VT60A
D2      3       2 S30VT60A
D3      1       4 S30VT60A
D4      4       2 S30VT60A
D5      1       5 S30VT60A
D6      5       2 S30VT60A
.MODEL S30VT60A D
+ IS=7.3660E-9
+ N=1.6000
+ RS=1.5200E-3
+ IKF=10.980
+ CJO=573.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=27.4E-6
.ENDS
*$
*
* Product Name=S30VTA60
.SUBCKT S30VTA60/SDG 1 2 3 4 5
D1      1       3 S30VTA60A
D2      3       2 S30VTA60A
D3      1       4 S30VTA60A
D4      4       2 S30VTA60A
D5      1       5 S30VTA60A
D6      5       2 S30VTA60A
.MODEL S30VTA60A D
+ IS=7.3660E-9
+ N=1.6000
+ RS=1.5200E-3
+ IKF=10.980
+ CJO=573.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=27.4E-6
.ENDS
*$
*
* Product Name=S3V60
.MODEL S3V60/SDG D
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
*$
*
* Product Name=S3WB60
.SUBCKT S3WB60/SDG 1 2 3 4
D1      2       1 S3WB60A
D2      3       2 S3WB60A
D3      3       4 S3WB60A
D4      4       1 S3WB60A
.MODEL S3WB60A D
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS
*$
*
* Product Name=S50VB60
.SUBCKT S50VB60/SDG 1 2 3 4
D1      2       1 S50VB60A
D2      3       2 S50VB60A
D3      3       4 S50VB60A
D4      4       1 S50VB60A
.MODEL S50VB60A D
+ IS=7.3660E-9
+ N=1.6000
+ RS=1.5200E-3
+ IKF=10.980
+ CJO=573.10E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=27.4E-6
.ENDS
*$
*
* Product Name=S5VB60
.SUBCKT S5VB60/SDG 1 2 3 4
D1      2       1 S5VB60A
D2      3       2 S5VB60A
D3      3       4 S5VB60A
D4      4       1 S5VB60A
.MODEL S5VB60A D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS
*$
*
* Product Name=U4SB60
.SUBCKT U4SB60/SDG 1 2 3 4
D1      2       1 U4SB60A
D2      3       2 U4SB60A
D3      3       4 U4SB60A
D4      4       1 U4SB60A
.MODEL U4SB60A D
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS
*$
*
* Product Name=U4SBA60
.SUBCKT U4SBA60/SDG 1 2 3 4
D1      2       1 U4SBA60A
D2      3       2 U4SBA60A
D3      3       4 U4SBA60A
D4      4       1 U4SBA60A
.MODEL U4SBA60A D
+ IS=939.00E-12
+ N=1.6000
+ RS=11.900E-3
+ IKF=1.7400
+ CJO=79.200E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=9.2E-6
.ENDS
*$
*
*
* Product Name=U6SB60
.SUBCKT U6SB60/SDG 1 2 3 4
D1      2       1 U6SB60A
D2      3       2 U6SB60A
D3      3       4 U6SB60A
D4      4       1 U6SB60A
.MODEL U6SB60A D
+ IS=2.0260E-9
+ N=1.6000
+ RS=5.5200E-3
+ IKF=3.4700
+ CJO=165.80E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=13.5E-6
.ENDS
*$
*
* Product Name=U6SBA60
.SUBCKT U6SBA60/SDG 1 2 3 4
D1      2       1 U6SBA60A
D2      3       2 U6SBA60A
D3      3       4 U6SBA60A
D4      4       1 U6SBA60A
.MODEL U6SBA60A D
+ IS=1.3550E-9
+ N=1.6000
+ RS=8.2500E-3
+ IKF=2.4200
+ CJO=112.60E-12
+ M=.3231
+ VJ=.525
+ BV=600
+ IBV=10.000E-6
+ TT=11.1E-6
.ENDS
*$
